US04014920
149 g (1 mol) of o-allyloxyphenol and 180 g (1.22 mols) if chloral are fused by gentle warming, 100 g of finely powdered sodium carbonate are added at 25° C and the mixture is subsequently stirred for 8 hours. The resulting viscous mass is stored for 5 days at room temperature and then introduced into 500 ml of water. The whole is thoroughly stirred, the water is decanted and washing is repeated three more times, with 250 ml of water at a time. The viscous oil which remains is crude 2-allyloxy-4-(1-hydroxy-2-trichloro-ethyl)-phenol. This is introduced into a solution of 250 g of potassium hydroxide in 500 ml of methanol at 30° C over the course of 2-3 hours and the reaction mixture is left to stand for 3 hours. The alkali metal salts which have precipitated are filtered off and the filtrate is evaporated under reduced pressure. The oily residue is converted into a slurry with ice water, acidified with hydrochloric acid and extracted with chloroform. The chloroform extract is washed with water, dried over sodium sulphate and then filtered through a 3 cm thick layer of Merck silica gel (0.063-0.20). After washing with chloroform, evaporation of the filtrate under reduced pressure and crystallisation of the residue from hexane yields 3-allyloxy-4-hydroxy-benzaldehyde of melting point 66°-67° C.

reactant | o-allyloxyphenol | 1 mol, 149 g | C(C=C)OC1=C(C=CC=C1)O | C9H10O2
reactant | chloral | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 500 ml | O | H2O
product | 3-allyloxy-4-hydroxy-benzaldehyde | C(C=C)OC=1C=C(C=O)C=CC1O | C10H10O3
